US06358980B1
4-(4-But-2-ynyloxybenzenesulfonyl)-1-[(4-methoxyphenyl)sulfonyl]-4-piperidine carboxylic acid was prepared following the procedure of Example 64 (step 5). Starting from methyl 4-(4-but-2-ynyloxybenzenesulfonyl)-1-[(4-methoxyphenyl)sulfonyl]-4-piperidinecarboxylate (545 mg, 1.04 mmol) in 8 ml of tetrahydrofuran:methanol (1:1), and 1N sodium hydroxide (2.09 ml, 2.09 mmol) to obtain 446 mg (85%) of the acid. HR-MS: m/z Calculated for C23H25NO8S2 508.1094; Found 508.1073.

reactant | methyl 4-(4-but-2-ynyloxybenzenesulfonyl)-1-[(4-methoxyphenyl)sulfonyl]-4-piperidinecarboxylate | 1.04 mmol, 545 mg | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)C1(CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)OC)C(=O)OC | C24H27NO8S2
reactant | sodium hydroxide | 2.09 mmol, 1N, 2.09 ml | [OH-].[Na+]
solvent | tetrahydrofuran methanol | 8 ml | O1CCCC1.CO
product | 4-(4-But-2-ynyloxybenzenesulfonyl)-1-[(4-methoxyphenyl)sulfonyl]-4-piperidine carboxylic acid | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)C1(CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)OC)C(=O)O | C23H25NO8S2
